US05912244
6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran (9.637 g) (see Preparation 4) was dissolved in absolute ethanol (200 ml), then sodium tert-butoxide (11.029 g), 4-methoxybenzenethiol (4.9 ml) and tetrakis(triphenylphosphine)palladium(O) (0.454 g) were added and the mixture was heated under reflux under a nitrogen atmosphere for 48 hours. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane and washed with water. The organic layer was dried (anhydrous sodium sulphate), the solvent was removed under reduced pressure and the crude product was chromatographed on silica using 1:1, hexane: dichloromethane as the eluent to yield 6-(4-methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (7.823 g) as a yellow oil.

reactant | 6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran | 9.637 g | BrC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C12H13BrO
reactant | sodium tert-butoxide | 11.029 g | CC(C)([O-])C.[Na+]
reactant | 4-methoxybenzenethiol | 4.9 ml | COC1=CC=C(C=C1)S | C7H8OS
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.454 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 6-(4-methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 7.823 g | COC1=CC=C(C=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C19H20O2S
